US07897595B2
5) 3-Bromo-2-methoxy-5-methyl-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine
Br2 (2.00 ml, 39.2 mmol) was added to a mixture of 2-methoxy-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine (113 mg, 392 μmol), Na2HPO4 buffer (40 ml) and MeOH (5 ml). After stirring for 1 h at ambient temperature, the reaction mixture was parted between EtOAc and NaHCO3. The organic phase was washed with brine, dried over Na2SO4 and concentrated in vacuo. Chromatographic purification rendered 152 mg (99%) of 3-bromo-2-methoxy-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine. 1H-NMR (CDCl3) δ 7.61 (s, 1H), 4.18-3.82 (m, 5H), 3.63 (m, 1H), 3.56-3.36 (m, 1H), 3.24 (m, 1H), 3.10 (m, 2H), 1.33 (m, 3H) ppm. A mixture of 3-bromo-2-methoxy-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine (52.0 mg, 142 μmol) and K2CO3 (100 mg) in MeOH (20 ml) was heated at reflux for 1.5 h. The reaction mixture was parted between EtOAc and NaHCO3. The organic phase was washed with brine, dried over Na2SO4 and concentrated in vacuo. Chromatographic purification rendered 37.5 mg (97%) of 3-bromo-2-methoxy-5-methyl-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine. 1H-NMR (CDCl3) δ 7.55 (s, 1H), 3.97 (s, 3H), 3.10-2.91 (m, 6H), 2.74 (dd, 1H), 1.31 (d, 3H) ppm.

reactant | Br2 | 39.2 mmol, 2.00 ml | BrBr | Br2
reactant | 2-methoxy-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine | 392 μmol, 113 mg | COC=1C=CC2=C(CCN(CC2C)C(C(F)(F)F)=O)N1 | C13H15F3N2O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | 3-bromo-2-methoxy-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine | 142 μmol, 52.0 mg | BrC1=CC2=C(CCN(CC2C)C(C(F)(F)F)=O)N=C1OC | C13H14BrF3N2O2
reactant | K2CO3 | 100 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | 20 ml | CO | CH4O
solvent | MeOH | 5 ml | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-Bromo-2-methoxy-5-methyl-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine | BrC1=CC2=C(CCNCC2C)N=C1OC | C11H15BrN2O
